US05047410
4-Amino-5-chloro-2-methoxy-N-(N'-nitro-N"-aminoethylguanidino)benzamide (Compound 2)
A solution of 4-amino-5-chloro-2-methoxy benzoic acid (0.6 g) and N,N'-carbonyldiimidazole (0.49 g) in anhydrous dimethylformamide (DMF) (15 ml) was stirred at room temperature for 30 minutes, then a solution of N-nitro-N'-aminoethylguanidine hydrochloride (0.55 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) in DMF was added. The mixture was stirred for 4 hours at 50° C., then was cooled, poured into water and extracted with methylene chloride. The organic layer was washed with sodium carbonate solution and dried. After cooling, the title compound was collected as a solid, M.p. 226°-227° C. (dec.)

reactant | 4-amino-5-chloro-2-methoxy benzoic acid | 0.6 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | N-nitro-N'-aminoethylguanidine hydrochloride | 0.55 g | Cl.[N+](=O)([O-])NC(=N)NCCN
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-Amino-5-chloro-2-methoxy-N-(N'-nitro-N"-aminoethylguanidino)benzamide | NC1=CC(=C(C(=O)NNC(=N[N+](=O)[O-])NCCN)C=C1Cl)OC | C11H16ClN7O4
